US05493030
To methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate (61.0 g) in methylene chloride (1000 ml) at 0° C. was added diisopropylethylamine (30.4 g) and methoxyethoxymethyl chloride (29.2 g). After 31/2 hours the solution was washed with dilute hydrochloric acid, dried and evaporated to give methyl (E) 6-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate as an oil.

reactant | methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 61.0 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H22O6
reactant | diisopropylethylamine | 30.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxyethoxymethyl chloride | 29.2 g | COCCOCCl | C4H9ClO2
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | methyl (E) 6-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CCC(=O)OC)\C | C22H30O8
